US04165365
To a solution of 13.8 g. (0.10 mol) of m-nitroaniline in 100 ml. of diethyl ether and 30 ml. of ethyl acetate was added 9.0 g. (0.10 mol) of acryloyl chloride and a solution of 4.0 g. (0.10 mol) of sodium hydroxide in 20 ml. of water. The mixture was stirred overnight (18 hours) at ambient temperature and the precipitate filtered to give N-propenoyl-3-nitroaniline.

reactant | m-nitroaniline | 0.10 mol | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acryloyl chloride | 0.10 mol | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydroxide | 0.10 mol | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-propenoyl-3-nitroaniline | C(C=C)(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C9H8N2O3
